US04489089
A mixture of 23.5 g. of N-(4-chloro-2-butenyl)-isoindole-1,3(2H)-dione, 11.0 g. of sodium imidazole and 200 ml. of dimethyl formamide was heated on the steam bath for 18 hours and concentrated to remove the solvent; the residue was taken up in methylene chloride, washed with water, dried with magnesium sulfate and again concentrated. The residue was dissolved in hot ethylacetate and allowed to cool and N-[4-(1H-imidazol-1-yl)-2-butenyl]isoindole-1,3-(2H)-dione, m.p. 106°-108° C., was obtained.

reactant | N-(4-chloro-2-butenyl)-isoindole-1,3(2H)-dione | ClCC=CCN1C(C2=CC=CC=C2C1=O)=O | C12H10ClNO2
reactant | sodium imidazole | N1C=NC=C1.[Na]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | N-[4-(1H-imidazol-1-yl)-2-butenyl]isoindole-1,3-(2H)-dione | N1(C=NC=C1)CC=CCN1C(C2=CC=CC=C2C1=O)=O | C15H13N3O2
